US05521213
Step 1: 3-(4-(Methylthio)phenyl)-2-phenylinden-1-one
To a solution of p-bromothioanisole (2.04 g, 10 mmol) in THF (40 mL) cooled to -78° C. was added a solution of n-butyl lithium in hexane (4.0 mL of 2.5M, 10 mmol). The resulting suspension was stirred at this temperature for 20 min. Then a solution of benzalphthalide (2.11 g, 9.5 mmol) in benzene (20 mL) was added and the reaction was allowed to proceed at r.t. for 2 hrs. The reaction turned deep-red. The reaction was completed by addition of conc. H2SO4 (0.63 mL, 20 mmol) and stirred at r.t. for another 30 min. The reaction was then diluted with EtOAc and a 1:1 mixture of H2O and saturated aqueous NaHCO3 and extracted. The aqueous layer was extracted one more time with EtOAc. The combined organic extracts were dried over MgSO4 and concentrated to dryness. The crude product was purified by flash chromatography eluted with 10-15% EtOAc in hexane to give the title compound as an orange-red gum.

reactant | p-bromothioanisole | 10 mmol, 2.04 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 10 mmol, 2.5M, 4.0 mL | CCCCCC | C6H14
reactant | benzalphthalide | 9.5 mmol, 2.11 g | C(C1=CC=CC=C1)=C1OC(=O)C2=CC=CC=C12 | C15H10O2
reactant | H2SO4 | 20 mmol, 0.63 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 3-(4-(Methylthio)phenyl)-2-phenylinden-1-one | CSC1=CC=C(C=C1)C1=C(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C22H16OS
